US05563162
To a stirred mixture of 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-nitrobenzene (433 mg), ferric chloride hexahydrate (17.5 mg) and activated carbon (17.5 mg) in a mixture of methanol (2.78 ml) and water (0.69 ml) was added hydrazine monohydrate (0.135 ml) dropwise at 60°-70° C. After the addition was finished, the mixture was refluxed for half an hour. The mixture was allowed to cool and filtered. The filtrate was concentrated in vacuo. The residue was extracted with dichloromethane and the organic phase was dried over anhydrous magnesium sulfate. After being filtered, the filtrate was concentrated in vacuo and the resulting residue was washed with n-hexane to give 3-amino-1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichlorobenzene (348 mg) as a white mass.

reactant | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-nitrobenzene | 433 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C23H23Cl2NO3Si
reactant | hydrazine monohydrate | 0.135 ml | O.NN
solvent | methanol | 2.78 ml | CO | CH4O
solvent | water | 0.69 ml | O | H2O
product | 3-amino-1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichlorobenzene | 348 mg | NC=1C(=C(C(=CC1)Cl)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C23H25Cl2NOSi
